Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
Bone Marrow Biopsy
Lymph Node Biopsy 

 
History of Present Illness:
___ PMH of Mantle cell lymphoma/leukemia with CNS involvement
(s/p auto transplant, maintenance ritux ending ___, HTN,
CVA/CRVO, SSS (s/p PPM), pAFib (Eliquis), Convulsive Syncope, 
who
presented from ___ s/p episode of convulsive
syncope, in light of pathologic rib fracture and diffuse
lymphadenopathy seen on imaging

As per review of notes and discussion with patient and his Wife
___, patient was in his USOH, watching his grandson's holiday
concert at school when he had sudden onset, sharp pain, in his
right lower back, which caused him to feel weak. He leaned over
and passed out in his wifes lap. He remained seated and did not
fall. He had urinary incontinence and some shaking. Upon
awakening he was diaphoretic and projectile vomited a few times
but the pain was gone. He then had complete resolution of all
symptoms, and has been in his USOH since. Denied fever, cough,
rhinorrhea, headache, pain anywhere, difficulty w/
walking/coordination/strength

He was brought to ___ by EMS where he had 3 negative troponins
and EKG which was not concerning for ischemia. Cardiology
interrogated PPM which was working OK and did not show acute
arrhythmia which could have caused episode. Patient was seen by
neurology and EEG was performed (report not in chart), who
thought that vasovagal etiology due to pain was most likely. 

He had Cr of 1.4 (baseline 1.2), which was felt to be ___,
possibly ___ hypovolemia from vomiting so was given IVF and Cr
normalized. 

Patient had CT Chest which revealed new b/l axillary,
peripancreatic, periportal, paraortic and aortocaval
lymphadenopathy concerning for malignancy. He also was found to
have non displaced pathologic fracture of posterior right 
seventh
rib. Accordingly, was transferred to ___ for further
investigation. 
 
Past Medical History:
ONCOLOGIC HISTORY:
 * ___ - C1 CHOP
 * ___ - Admitted urgently due to choroidal cellular
infiltrate in the left eye concerning for CNS involvement from
his Mantle Cell lymphoma/leukemia.  MRI imaging consistent with
this. 
 * ___ - High dose methotrexate, complicated by acute renal
insufficiency with creatinine peaking at 2.2 felt most likely
from precipitation in the renal tubules.  Creatinine has 
trending
downward, stabilizing at 1.5. Discharged on ___.
 * ___ and ___ - Received Rituxan in divided doses
with mild reaction. 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to his age and renal function; received 2 doses on ___, 1 dose
on ___ and 1 dose on ___.  On Neupogen support during nadir,
required transfusion of red cells and platelets.
 * ___ - C2 RCHOP 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to age and renal function.  High dose MTX on hold with renal
insufficiency.
 * ___ - C3 RCHOP
 * Restaging scan shows interval improvement of lymphoma.  MRI 
of
___ with resolution of previous enhancement.  
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 due
to age and renal function. 
 * ___ - Repeat LP and IT Ara-C given
 * ___ - High dose cytoxan for stem cell mobilization
 * ___ - Started stem cell collections with Neupogen and
Mozibil and collected ~ 5 million CD34 cells/kg over 4 days.
 .
PAST MEDICAL HISTORY:  
- Mantle cell lymphoma/leukemia
- Heterozygous for Factor V Leiden and low Protein S activity of
39%, repeated on ___, now normal 
- Hypertension
- Prostate hypertrophy 
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- Status post appendectomy
- Status post prostate biopsy (incisional)
- Status post repair of deviated nasal septum
.

 
Social History:
___
Family History:
No lymphoma or leukemia in family. Mother had bone cancer, died 
at age ___ with also history of ___. Father died at age 
___ with h/o hypertension, stroke. One brother s/p CABG, stroke 
and ETOH use.
 
Physical Exam:
===============
ADMISSION LABS:
===============
Vitals: ___ 2252 Temp: 97.9 PO BP: 123/84 HR: 69 RR: 18 O2
sat: 95% O2 delivery: Ra  
GENERAL: sitting in bed, appears comfortable, wife at bedside,
NAD
EYES: PERRLA, Anicteric, EOMI
HEENT: OP clear, MMM
NECK:  supple
LUNGS:  CTA b/l, no wheezes/rales/rhonchi, normal RR
CV: RRR no m/r/g, normal distal perfusion, no edema
ABD: soft, NT, ND, normoactive BS, no rebound or guarding
GENITOURINARY: no foley
EXT:  warm, no deformity, normal strength
SKIN: warm, dry, no rash 
NEURO:  AOx3, fluent speech, gross
sensation/strength/coordination intact in all extremities, neg
pronator drift, no cranial nerve deficits
ACCESS: PIV

===============
DISCHARGE LABS:
===============
___ 1229 Temp: 97.9 PO BP: 90/58 L HR: 84 RR: 18 O2 sat: 
94%
O2 delivery: RA 
EYES: PERRLA, Anicteric, EOMI
HEENT: OP clear, MMM
NECK:  Anterior cervical and axillary lymphadenopathy 
LUNGS:  CTA b/l, no wheezes/rales/rhonchi, normal RR
CV: Regular rate, Irregular rhythm, no m/r/g, normal distal
perfusion, no edema
ABD: soft, NT, ND, normoactive BS, no rebound or guarding
GENITOURINARY: no foley
EXT:  warm, no deformity, normal strength
SKIN: warm, dry, scaly plaque in axilla bilaterally, non tender
or pruritic 
NEURO: AOx3, fluent speech, gross 
sensation/strength/coordination
intact in all extremities, neg pronator drift, no cranial nerve
deficits
ACCESS: PIV
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 06:40AM BLOOD WBC-4.8 RBC-4.08* Hgb-13.0* Hct-38.5* 
MCV-94 MCH-31.9 MCHC-33.8 RDW-12.7 RDWSD-43.8 Plt ___
___ 06:40AM BLOOD Neuts-59.0 ___ Monos-12.6 Eos-4.8 
Baso-0.6 Im ___ AbsNeut-2.81 AbsLymp-1.08* AbsMono-0.60 
AbsEos-0.23 AbsBaso-0.03
___ 06:40AM BLOOD Glucose-97 UreaN-19 Creat-1.1 Na-141 
K-4.1 Cl-106 HCO3-25 AnGap-10
___ 06:40AM BLOOD ALT-21 AST-22 LD(LDH)-190 AlkPhos-79 
TotBili-0.6
___ 06:40AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.2 UricAcd-5.4
___ 06:40AM BLOOD Vit___-___

=============
MICROBIOLOGY:
=============
__________________________________________________________
___ 4:02 pm CSF;SPINAL FLUID      Source: LP #3. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

========
STUDIES:
========
SPECIMEN SUBMITTED: Immunophenotyping-csf
Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  Immunophenotyping-bone marrow 
  ___  BONE MARROW, BIOPSY, CORE 
  ___  immunophenotyping - PB 
  ___  immunophenotyping - PB 
(and more) 
DIAGNOSIS: 
FLOW CYTOMETRY REPORT 
FLOW CYTOMETRY IMMUNOPHENOTYPING 
The following tests (antibodies) were performed: Kappa, Lambda, 
FMC-7 and CD antigens 5, 10, 11c, 19, 20, 23, and 45.
RESULTS:
10-color analysis with CD45 vs. side-scatter gating is used to 
evaluate for leukemia/lymphoma.
Only 0.67% of total acquired events are evaluable non-debris 
events.
The viability of the analyzed non-debris events, done by 7-AAD 
is 100.00%.
A focused panel is performed to evaluate B-cells. 
CD45-bright, low side-scatter gated lymphocytes comprise 26.93% 
of total analyzed events.
B cells are scant in number precluding evaluation of 
clonality/further characterization. 
INTERPRETATION
Non-diagnostic study. Cell marker analysis was attempted, but 
was non-diagnostic in this case due to insufficient numbers of 
cells/insufficient amount of tissue for analysis. Correlation 
with clinical and other ancillary findings is recommended. Flow 
cytometry immunophenotyping may not detect all abnormal 
populations due to topography, sampling or artifacts of sample 
preparation. 

SPECIMEN SUBMITTED: Immunophenotyping-bone marrow
Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  BONE MARROW, BIOPSY, CORE 
  ___  immunophenotyping - PB 
  ___  immunophenotyping - PB 
  ___  Slides referred for consultation. 
(and more) 
DIAGNOSIS:
FLOW CYTOMETRY REPORT 
FLOW CYTOMETRY IMMUNOPHENOTYPING
The following tests (antibodies) were performed: Kappa, Lambda, 
FMC-7 and CD antigens 5, 10, 11c, 19, 20, 23, and 45.
RESULTS:
10-color analysis with CD45 vs. side-scatter gating is used to 
evaluate for leukemia/lymphoma. 
Approximately 38.53% of total acquired events are evaluable 
non-debris events. 
The viability of the analyzed non-debris events, done by 7-AAD 
is 98.72%.
CD45-bright, low side-scatter gated lymphocytes comprise 13.10% 
of total analyzed events.
A subset (approximately 50%) of B cells demonstrate lambda light 
chain restriction. This population co-expresses pan-B cell 
markers CD19 and CD20 along with CD5 and is negative for CD10, 
CD11c and CD23. The remainder of the B cells detected are 
polyclonal.
A population of hematogones is seen.
INTERPRETATION
Immunophenotypic findings consistent with involvement by mantle 
cell lymphoma. Correlation with clinical, morphologic (see 
separate pathology report ___ and other ancillary 
findings is recommended. Flow cytometry immunophenotyping may 
not detect all abnormal populations due to topography, sampling 
or artifacts of sample preparation.

SPECIMEN: BONE MARROW ASPIRATE AND CORE BIOPSY.
DIAGNOSIS:
NORMOCELLULAR BONE MARROW WITH MATURING TRILINEAGE HEMATOPOIESES 
AND
INVOLVEMENT BY THE PATIENT'S KNOWN MANTLE CELL LYMPHOMA, SEE 
NOTE.
Note: By immunohistochemistry, there are scattered T cells 
immunoreactive for CD3. CD20 highlights multiple paratrabecular 
aggregates of B-cells, which additionally stain with CD5.
By flow cytometry (___), there is a lambda restricted, CD5 
positive B-cell lymphoma consistent with mantle cell lymphoma. A 
BCL1 stain is in progress. MICROSCOPIC DESCRIPTION
Peripheral blood smear: The smears are adequate for evaluation. 
Erythrocytes are slightly decreased in number,
normochromic, normocytic and have no anisopoikilocytosis. The 
white blood cell count is normal. The platelet count is 
decreased. Occasional large and giant platelets are seen. A 100 
cell
differential shows 55% neutrophils, 35% lymphocytes, 5% 
monocytes, 4% eosinophils, and 1% basophils.
Bone marrow aspirate: The aspirate material is adequate for 
evaluation and consists of multiple cellular spicules. The M:E
ratio estimate is 1.4:1 Erythroid precursors are normal in 
number and exhibit predominantly normal
maturation, rare erythroids with irregular nuclear contours are 
seen . Myeloid precursors are normal in number and show 
predominantly normal maturation. Megakaryocytes are normal in 
number;
abnormal forms are seen, including forms that are hypolobated or 
contain disjointed nuclei. A 300 cell differential shows 3% 
blasts, 13% promyelocytes, 15% myelocytes, 8% metamyelocytes, 
17%
bands/neutrophils, 0% eosinophils, 41% erythroids, 3% 
lymphocytes, and 0% plasma cells. ___ 
___
Department of Pathology
___ ___ 2 of 3 
Clot section and biopsy slides:
The core biopsy material is adequate for evaluation. It consists 
of a 1.3 cm long core biopsy composed of cortical bone and 
trabecular marrow with a cellularity of 40-50%. There are 
clusters of
lymphocytes in a para-trabecular organization. Erythroid 
precursors are normal in number and have overall normoblastic 
maturation. Myeloid precursors are normal in number and exhibit 
normal
maturation. Megakaryocytes are mildly increased in number; 
hypolobated forms are seen.

CYTOGENETICS REPORT - Final
SPECIMEN: BONE MARROW
CLINICAL HISTORY: History of mantle cell lymphoma
CYTOGENETICS PROCEDURE: Unstimulated and 3 day 
DSP30/IL2-stimulated cultures for Giemsa-banded chromosome 
analysis.
FINDINGS: An apparently normal 46,XY male chromosome complement 
was observed in 20 mitotic cells examined in detail. Chromosome 
band resolution was 400-450. A karyogram was prepared on
3 cells. CYTOGENETIC DIAGNOSIS: 46,XY[20] Normal male karyotype.
INTERPRETATION/COMMENT: Every metaphase bone marrow cell 
examined appeared to be karyotypically normal. However, FISH 
detected the IGH/CCND1 gene rearrangement in 1% of the 
mononuclear interphase cells examined (see below). These 
findings are consistent with persistence
or recurrence of the patient's known mantle cell lymphoma.
This normal karyotype makes a chromosome abnormality unlikely. 
There is a possibility that low grade mosaicism, a subtle or 
cytogenetically cryptic
chromosome rearrangement, a non-mitotic neoplastic clone, and/or 
copy number neutral loss of heterozygosity would be present and 
go undetected with routine chromosome analysis.
FISH: LOW POSITIVE for IGH/CCND1. 1% of the mononuclear 
interphase bone marrow cells examined had an abnormal probe 
signal pattern consistent with the IGH/CCND1 gene rearrangement 
characteristic of mantle cell lymphoma.
Uncultured cells for fluorescence in situ hybridization (FISH) 
analysis with the ___ Molecular IGH/CCND1 XT dual color dual 
fusion translocation probe set: SpectrumOrange directly labeled 
probe for the CCND1 gene region on ___ and SpectrumGreen 
directly labeled probe for the IGH locus on 14q32. This probe 
combination detects the IGH/CCND1
gene rearrangement brought about by the t(11;14)(q13;q32) 
translocation characteristic of mantle cell lymphoma and seen in 
some plasma cell neoplasms. FINDINGS: A total of 200 interphase 
nuclei were examined with the CCND1 and IGH dual color dual 
fusion probe set
and fluorescence microscopy. 199 cells (99%) had 2 red signals 
and 2 green signals. 2 cells (1%) had ___ yellow ___ 
___-___ Department of Pathology 
Patient: ___ 2 of 2
(red-green fusion) signals, 1 red signal and 1 green signal. 
Normal cut-off values for this probe set include: 86% for a
normal 2 red and 2 green probe signal pattern and 1.5% for a ___ 
yellow (red-green fusion), 1 red and 1 green signal
pattern. ___ ish(CCND1,___)x3(___ con ___
This test was developed and its performance characteristics 
determined by ___ Laboratory. 
It has not been cleared or
approved by the ___ Food ___ Drug Administration (FDA). The FDA 
does not require this test to go through premarket FDA review. 
This test is used for
clinical purposes. It should not be regarded as investigational 
or for research. This laboratory is certified under the Clinical 
Laboratory Improvement Amendments (CLIA) as qualified to perform 
high complexity clinical laboratory testing.
2) FISH: NEGATIVE for DELETION of TP53. No evidence of 
interphase bone marrow cells with deletion of the TP53 gene.
Uncultured cells for fluorescence in situ hybridization (FISH) 
analysis with the ___ Molecular TP53 and CEP17 dual
color probe set: SpectrumOrange directly labeled probe for the 
TP53 gene on 17p13 and SpectrumGreen directly labeled probe for 
the centromeric region of chromosome 17. This probe combination 
detects deletions of the TP53 tumor suppressor gene.
FINDINGS: A total of 200 interphase nuclei were examined with 
the TP53 and CEP17 dual color probe set and fluorescence 
microscopy. 193 cells (91.5%) had 2 red and 2 green signals. 4 
cells (2%) had 1 red signal and 2 green
signals. 3 cells (1.5%) had 1 red signal and 1 green signal. 
Normal cut-off values for this probe set include: 86% for the
normal 2 red and 2 green signal pattern, 8% for a 1 red and 2 
green pattern, and 4% for a 1 red and 1 green pattern.
___ ish(TP53,CEP17)x2[200]

SPECIMEN: LYMPH NODE, RIGHT INGUINAL NODE, CORE NEEDLE BIOPSY.
DIAGNOSIS:
RELAPSED MANTLE CELL LYMPHOMA, SEE NOTE:
Note: Sections of lymph node core biopsies show an effaced 
architecture with a diffuse pattern of abnormal lymphocytes. The 
lymphocytes are primarily medium in size with scant cytoplasm, 
mildly
irregular nuclear contours, coarse and dense chromatin, and 
inconspicuous nucleoli. Occasional mitotic figures are present.
By immunohistochemistry, CD20 highlights the B-cells comprising 
the vast majority of the lymphoid population, while CD3 
highlights scattered T-cells. CD5 and BCL1 are co-expressed in 
the B-cell
population. CD21 and CD23 highlight residual follicular 
dendritic meshworks. BCL2 is diffusely positive. BCL6 and CD10 
are negative. By Ki-67 immunostaining, the proliferation index 
is low with
an overall fraction of 10% which focally increases to 20%.
Overall, the findings are those of a mantle cell lymphoma, 
consistent with the patient's known disease. Correlation with 
clinical, radiographic, cytogenetics (___-___) and flow 
cytometry (see
report ___ findings is recommended.

SPECIMEN SUBMITTED: Immunophenotyping specimen - lymph node

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 

Previous biopsies:    ___  BONE MARROW 
  ___  Immunophenotyping-csf 
  ___  Immunophenotyping-bone marrow 
  ___  BONE MARROW, BIOPSY, CORE 
(and more) 
FLOW CYTOMETRY REPORT 
FLOW CYTOMETRY IMMUNOPHENOTYPING
The following tests (antibodies) were performed: Kappa, Lambda, 
FMC-7 and CD antigens 5, 10, 11c, 19, 20, 23 and 45.
RESULTS: 10-color analysis with CD45 vs. side-scatter gating is 
used to evaluate for leukemia/lymphoma. The viability of the 
analyzed non-debris events, done by 7-AAD is 31.9%. A focused 
panel is performed to evaluate B-cells. CD45-bright, low 
side-scatter gated lymphocytes comprise 97.5% of total analyzed 
events. B cells comprise 95% of lymphoid-gated events and 
demonstrate monoclonal lambda light chain restriction. They 
co-express pan-B cell markers CD19 and CD20 along with CD5. They 
do not express any other characteristic antigens including 
FMC-7, CD10, CD11c and CD23. INTERPRETATION: Immunophenotypic 
findings consistent with involvement by mantle cell lymphoma. 
Correlation with clinical, morphologic (see separate pathology 
report ___ and other ancillary findings is recommended. 
Flow cytometry immunophenotyping may not detect all abnormal 
populations due to topography, sampling or artifacts of sample 
preparation.

MR ___ w/ w/out contrast ___:
1. Medial right occipital lobe FLAIR hyperintense leptomeningeal 
enhancement, similar in appearance to examinations of ___ (which had subsequently resolved on follow-up examinations) 
raises concern for recurrent lymphoma thus leptomeningeal 
disease.  This could be further evaluated or confirmed with 
lumbar puncture as clinically indicated. 
2. Unchanged 6 mm focus of tissue isointense to brain 
parenchyma, without 
enhancement, stable since ___, arising from the lateral margin 
of the right middle cerebellar peduncle.  This could represent 
normal brain parenchyma, post treatment change; suggestive of a 
benign entity given stability and lack of enhancement.  This may 
represent a hamartoma. 
3. Interval progression of global parenchymal volume loss and 
now moderate 
changes of chronic white matter microangiopathy since ___. 
4. Solitary nonspecific focus of chronic microhemorrhage, right 
basal ganglia. 
5. Additional findings described above. 

===============
DISCHARGE LABS:
===============
___ 06:20AM BLOOD WBC-4.2 RBC-4.11* Hgb-12.8* Hct-38.8* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-12.9 RDWSD-44.5 Plt Ct-98*
___ 06:20AM BLOOD Neuts-57.6 ___ Monos-11.5 Eos-5.8 
Baso-0.8 Im ___ AbsNeut-2.31 AbsLymp-0.93* AbsMono-0.46 
AbsEos-0.23 AbsBaso-0.03
___ 06:20AM BLOOD Glucose-97 UreaN-28* Creat-1.0 Na-142 
K-4.5 Cl-107 HCO3-23 AnGap-12
___ 06:20AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
==================
SUMMARY STATEMENT:
================== 
___ PMH of Mantle cell lymphoma with CNS involvement
(s/p auto transplant, maintenance rituximab ending ___, 
HTN,
CVA/CRVO, SSS (s/p PPM), pAFib (Eliquis), Convulsive Syncope, 
who
presented from ___ s/p episode of convulsive
syncope, in light of pathologic rib fracture and diffuse
lymphadenopathy seen on imaging s/p LP and BMBx found to have a 
recurrence of mantle cell lymphoma.

==============
ACTIVE ISSUES:
==============
#Convulsive Syncope
Patient has hx of convulsive syncope, of unclear etiology. On 
this current admission, he suffered an episode of convulsive 
syncope following acute pain in right back (possibly due to 
acute rib fracture) which may have precipitated vasovagal spell 
as back to usual self after vomiting, but was seated during 
episode. The patient's wife described the incident as him losing 
consciousness and having twitching of his hands/legs for about 1 
minute. No arrhythmia on Tele, EKG or PPM interrogation and 
troponin negative. No neurologic exam findings to suggest 
stroke. Seizure possible given urinary incontinence, but patient 
and wife deny post ictal state or tongue biting and EEG without 
epileptic activity. CTH without new bleed or mass, although 
there is a new lacunar infarct not seen on prior CTH. Had 
orthostatic vital signs ___ AM although asymptomatic and given 
fluid bolus, but this does not seem to be the culprit of his 
syncopal episode. He had an MRI that showed a medial right 
occipital lobe FLAIR hyperintense leptomeningeal enhancement, 
similar in appearance to examinations of ___ (which had 
subsequently resolved on follow-up examinations). This likely 
does not represent new CNS lymphoma.

#Mantle Cell Lymphoma Recurrence
#Diffuse Lymphadenopathy seen on CT Chest
Diffuse lymphadenopathy on exam and CT highly suspicious for
malignancy given concurrent pathologic rib fracture and diffuse
lymphadepathy. Upon presentation denied B symptoms and no 
signs/symptoms of infection. CTH without CNS involvement and MRI 
with right occipital FLAIR hyperintense enhancement, but per 
neuro oncology likely does not represent new CNS lymphoma. BM 
and LN biopsy with mantle cell lymphoma and LP with elevated 
protein but without malignant cells. Will set patient up with 
follow up for PET scan and treatment for his mantle cell 
lymphoma in ___ days from discharge. He will continue on his 
acyclovir ppx.

#Acute Pathologic Rib Fracture
Patient described acute right back pain which precipitated above
event and may have represented acute fracture, although short
duration of pain and the fact that it is completely resolved as
well as described location is not consistent with a new rib
fracture. Fortunately, he is now asymptomatic and did not 
require analgesia while in house.

===============
CHRONIC ISSUES:
===============
#Afib: On apixaban at home. Was on heparin gtt for procedures 
and
now back on home apixaban.

#Hx of B12 deficiency
Has on and off again use of B12. B12 wnl on admission.

#SSS s/p PPM
#hx of CVA/CRVO
#hx of pAFIB
#HLD
#HTN
No arrhythmia on EKG on PPM interrogation and troponin negative
so tele discontinued. His statin was discontinued initially, but 
re-started on discharge. He was also continued on his home 
losartan. 

#Lacunar infarct seen on CT: Appears new from last scan, no new 
sx. MRI without evidence of new infarct. 

====================
TRANSITIONAL ISSUES:
====================
[] Patient should have PET scan prior to therapy
[] Will follow up with outpatient oncology to re-establish care 
and start treatment
[] Of note, patient and family would like care close to home 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Atorvastatin 80 mg PO QPM 
3. Acyclovir 400 mg PO Q12H 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
5. Apixaban 5 mg PO BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Losartan Potassium 50 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Clotrimazole Cream 1 Appl TP BID Duration: 1 Week  
2.  Acyclovir 400 mg PO Q12H  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
4.  Apixaban 5 mg PO BID  
5.  Atorvastatin 80 mg PO QPM  
6.  Cyanocobalamin 1000 mcg PO EVERY OTHER DAY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Losartan Potassium 50 mg PO DAILY  
9.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Mantle Cell Lymphoma Recurrence
Syncope of unknown etiology

Secondary Diagnosis:
====================
Atrial fibrillation
SSS
Lacunar infarct on CT
Pathologic rib fracture
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted because you had an episode where you lost 
consciousness and were found to have enlarged lymph nodes at 
___ with concern for a recurrence of your 
lymphoma

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had an EEG that did not show seizure activity and your 
pacemaker did not show any arrhythmias that would explain your 
loss of consciousness
- Our radiologists reviewed the CT scan of your chest from ___ 
___ and you had a CT scan of your abdomen and pelvis 
that showed enlarged lymph nodes
- You had a bone marrow and lymph node biopsy that showed mantle 
cell lymphoma (the same lymphoma you had originally)
- You had a lumbar puncture to look at the fluid surrounding 
your brain and spine that did not show signs of lymphoma in the 
brain
- You had an MRI of your brain that showed a change in the back 
portion of your brain that was present ___ years ago. This likely 
does not represent lymphoma of the brain. 

WHAT SHOULD I DO WHEN I GO HOME?
- Please continue taking your medications as prescribed and go 
to all of your follow up appointments
- You should have an outpatient PET scan
- Our team will set you up with an oncologist; you can follow up 
with this person as an outpatient and for the start of your 
treatment

We wish you the best,

Your ___ care team
 
Followup Instructions:
___